US04486431
1. 4,5-Dihydro-4-methyl-6-(4-pyridinyl)-3(2H)pyridazinone
Following the above procedure described above for preparing methyl 4-cyano-2-methyl-4-(4-morpholinyl)-4-(4-pyridinyl)butanoate but using in place of 2-(4-morpholinyl)-2-(4-pyridinyl)ethanenitrile and methyl methacrylate molar equivalent quantities respectively of the appropriate 2-(BN)-2-(4-pyridinyl)ethanenitrile and lower-alkyl methacrylate, it is contemplated that there can be obtained the following corresponding lower-alkyl 4-cyano-2-methyl-4-(BN)-2-(4-pyridinyl)butanoates: methyl 4-cyano-2-methyl-4-(1-piperidinyl)-4-(4-pyridinyl)butanoate; methyl 4-cyano-2-methyl-4-(4-pyridinyl)-4-(1-pyrrolidinyl)butanoate; ethyl 4-cyano-2-methyl-4-(4-morpholinyl)-4-(4-pyridinyl)butanoate; and, n-propyl 4-cyano-4-(4-pyridinyl)-2-methyl-4-(4-morpholinyl)butanoate.

reactant | methyl 4-cyano-2-methyl-4-(1-piperidinyl)-4-(4-pyridinyl)butanoate | C(#N)C(CC(C(=O)OC)C)(C1=CC=NC=C1)N1CCCCC1 | C17H23N3O2
reactant | methyl 4-cyano-2-methyl-4-(4-pyridinyl)-4-(1-pyrrolidinyl)butanoate | C(#N)C(CC(C(=O)OC)C)(N1CCCC1)C1=CC=NC=C1 | C16H21N3O2
reactant | ethyl 4-cyano-2-methyl-4-(4-morpholinyl)-4-(4-pyridinyl)butanoate | C(#N)C(CC(C(=O)OCC)C)(C1=CC=NC=C1)N1CCOCC1 | C17H23N3O3
reactant | n-propyl 4-cyano-4-(4-pyridinyl)-2-methyl-4-(4-morpholinyl)butanoate | C(#N)C(CC(C(=O)OCCC)C)(N1CCOCC1)C1=CC=NC=C1 | C18H25N3O3
product | 4,5-Dihydro-4-methyl-6-(4-pyridinyl)-3(2H)pyridazinone | CC1C(NN=C(C1)C1=CC=NC=C1)=O | C10H11N3O
